US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(5-cyano-4-fluoro-2-nitrophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (450 mg, 0.752 mmol) in THF (3 ml) was added sodium hydrosulfite (85% tech.) (924 mg, 4.51 mmol) in solution of Water (6.00 ml) and the reaction mixture was stirred at 60° C. for one hour. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give N-({3-[(2-amino-5-cyano-4-fluorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (386 mg, 0.679 mmol, 90% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.76 (t, 1H), 7.98 (s, 1H), 7.39-7.49 (m, 1H), 7.34 (t, 1H), 6.70 (s, 2H), 6.56-6.68 (m, 2H), 5.49 (s, 2H), 4.47 (d, 2H), 3.39 (t, 2H), 0.75 (t, 2H), −0.08 (s, 9H).

reactant | 4-chloro-N-({4-chloro-3-[(5-cyano-4-fluoro-2-nitrophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.752 mmol, 450 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=C(C=C(C(=C1)C#N)F)[N+](=O)[O-])F)COCC[Si](C)(C)C | C24H23Cl2F2N5O5Si
reactant | sodium hydrosulfite | 4.51 mmol, 924 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | Water | 6.00 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({3-[(2-amino-5-cyano-4-fluorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.679 mmol, 386 mg, 90% yield | NC1=C(C=C(C(=C1)F)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C24H25Cl2F2N5O3Si
